US08293763B2
Step 2: 4-Cyclobutyl-2-fluoroaniline
A solution of 4-cyclobutyl-2-fluoro-nitrobenzene (0.5 g, 2.6 mmol) in IMS (5 mL) was degassed with argon for 2 minutes, before 10% Pd/C (0.05 g) was added, and a balloon of hydrogen affixed. The resultant mixture was stirred for 18 hours at room temperature, before being flushed with nitrogen and filtered through hyflo®. The filtrate was concentrated in vacuo to afford the title compound as an orange/red oil (0.31 g, 74%). 1H NMR (CDCl3): 6.84 (1H, d, J=12.3 Hz), 6.77 (1H, d, J=8.1 Hz), 6.70 (1H, t, J=9.1 Hz), 3.58 (2H, broad), 3.42 (1H, m), 2.28 (2H, m), 2.01 (3H, m), 1.82 (1H, m).

reactant | 4-cyclobutyl-2-fluoro-nitrobenzene | 2.6 mmol, 0.5 g | C1(CCC1)C1=CC(=C(C=C1)[N+](=O)[O-])F | C10H10FNO2
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 0.05 g | [Pd] | Pd
product | 4-Cyclobutyl-2-fluoroaniline | 0.31 g, 74% | C1(CCC1)C1=CC(=C(N)C=C1)F | C10H12FN
